US06953790B2
Step A. Phenyl N′-cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]imidocarbamate
A solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-ethylazepan-2-one (135 mg, 0.503 mmol) in dichloromethane was treated N,N-diisopropylethylamine (65 mg, 0.503 mmol) and diphenyl N-cyanocarbonimidate (204 mg, 0.855 mmol). After 5 h, the reaction was quenched with 0.5N NaOH and the organic layer washed with water and brine. The combined aqueous layers were extracted with EtOAc. The combined organics were dried, filtered and concentrated. Purification by silica gel chromatography (EtOAc/hexanes) gave the title compound (166 mg). MS 413.3 (M+1).

reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-ethylazepan-2-one | 0.503 mmol, 135 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC)=O | C14H18F2N2O
reactant | N,N-diisopropylethylamine | 0.503 mmol, 65 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenyl N-cyanocarbonimidate | 0.855 mmol, 204 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl N′-cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]imidocarbamate | 166 mg | C(#N)N=C(N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC)=O)OC1=CC=CC=C1 | C22H22F2N4O2
